US05411966
1,1-Diethy-3(2,6-dimethyl-13-isopropenyl-8alpha-ergolinyl)-urea
208 mg of 1,1-diethyl-3-[13-(1-hydroxy-1-methyl-ethyl)-2,6- -dimethyl-8alpha-ergolinyl]-urea (0.5 mmol) is dissolved in 20 ml of anhydrous tetrahydrofuran, mixed with 0.7 ml of triethylamine (5 mmol) and 0.4 ml of methanesulfonic acid chloride (5 mmol) and stirred for 30 minutes at room temperature. Ice is added to the mixture, it is made alkaline with conc. ammonia and shaken out with ethyl acetate. The residue is chromatographed on silica gel with dichloromethane/methanol, yield 99 mg (50% of theory).

reactant | 1,1-diethyl-3-[13-(1-hydroxy-1-methyl-ethyl)-2,6- -dimethyl-8alpha-ergolinyl]-urea | 0.5 mmol, 208 mg | C(C)N(C(=O)N[C@@H]1CN([C@@H]2CC3=C(NC4=CC(=CC([C@H]2C1)=C34)C(C)(C)O)C)C)CC | C24H36N4O2
reactant | triethylamine | 5 mmol, 0.7 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonic acid chloride | 5 mmol, 0.4 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,1-Diethy-3(2,6-dimethyl-13-isopropenyl-8alpha-ergolinyl)-urea | C(C)N(C(=O)N[C@@H]1CN([C@@H]2CC3=C(NC4=CC(=CC([C@H]2C1)=C34)C(=C)C)C)C)CC | C24H34N4O
